US06002008
A mixture of 1.00 g (3.82 mmol) of 4-chloro-6-ethoxy-7-methoxyquinoline-3-carbonitrile and 0.563 g (4.58 mmol) of 3-hydroxy-4-methylaniline in 20 mL of ethanol was refluxed under N2 for 8 h. Saturated NaHCO3 was added, volatile material was removed and the residue was azeotroped with ethanol. The crude product was slurried with hexane, filtered, washed with water and cold ethanol and dried. Recrystallization from ethanol gave 0.632 g of 6-ethoxy-4-(3-hydroxy-4-methylphenylamino)-7-methoxyquinoline-3-carbonitrile as light yellow crystals: mass spectrum (electrospray, m/e): M+H 349.9.

reactant | 4-chloro-6-ethoxy-7-methoxyquinoline-3-carbonitrile | 3.82 mmol, 1.00 g | ClC1=C(C=NC2=CC(=C(C=C12)OCC)OC)C#N | C13H11ClN2O2
reactant | 3-hydroxy-4-methylaniline | 4.58 mmol, 0.563 g | OC=1C=C(N)C=CC1C | C7H9NO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 6-ethoxy-4-(3-hydroxy-4-methylphenylamino)-7-methoxyquinoline-3-carbonitrile | 0.632 g | C(C)OC=1C=C2C(=C(C=NC2=CC1OC)C#N)NC1=CC(=C(C=C1)C)O | C20H19N3O3
